US08212032B2
Step 3: cis-4-amino-N-{[2-(trifluoromethyl)phenyl]methyl}cyclohexanecarboxamide
To a solution of 1,1-dimethylethyl {cis-4-[({[2-(trifluoromethyl)phenyl]methyl}amino)carbonyl]cyclohexyl}carbamate in CH2Cl2 (40 ml) at 0° C., a premixed solution of CH2Cl2 (10 ml) and TFA (10 ml) was added. The reaction mixture was stirred at 0° C. for 10 min. The reaction was warmed to room temperature and stirring was continued for 2 h. The solvent was next removed under reduced pressure to yield 2.83 g (69% over 2 steps) of the title compound. MS ES+): m/e 301.1 [M+H]+.

reactant | 1,1-dimethylethyl {cis-4-[({[2-(trifluoromethyl)phenyl]methyl}amino)carbonyl]cyclohexyl}carbamate | FC(C1=C(C=CC=C1)CNC(=O)[C@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)(F)F | C20H27F3N2O3
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | cis-4-amino-N-{[2-(trifluoromethyl)phenyl]methyl}cyclohexanecarboxamide | N[C@H]1CC[C@H](CC1)C(=O)NCC1=C(C=CC=C1)C(F)(F)F | C15H19F3N2O
